US06310056B1
1-(isopropoxycarbonyloxy)ethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate (diastereomer mixture)
To a solution of 48 mg of sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate in 1 ml of DMF was added 73 mg of 1-(isopropoxycarbonyloxy)ethyl iodide under the atmosphere of argon at −20° C., and the mixture was stirred for 3 hours during which the temperature was raised up to −10° C. The reaction mixture was extracted twice with 20 ml of ethyl acetate, and washed twice with 10 ml of semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to a volume of 2 ml. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=9:1) and on Sephadex LH-20 (dichloromethane:methanol=1:1) in this sequence to give the title compound in a yield of 22 mg.

reactant | sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 48 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)[O-])C1=O.[Na+]
reactant | 1-(isopropoxycarbonyloxy)ethyl iodide | 73 mg | C(C)(C)OC(=O)OC(C)I | C6H11IO3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(isopropoxycarbonyloxy)ethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)OC(C)OC(=O)OC(C)C)C1=O | C20H23N3O7S
